US07115611B2
In analogy to the procedures described in example 26B] and 26C], 2-(4-aminomethyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 97B]) was reacted with 4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid (prepared from 4-methoxy-3-oxo-butyric acid methyl ester, in analogy to the procedures described in examples 27C] and 27D] followed by saponification in analogy to the procedure described in example 53B]) to give 2-[4-({[4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-2-methyl-phenoxy]-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as light yellow foam.

reactant | 2-(4-aminomethyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)CN)C)=O | C14H21NO3
reactant | 4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid | COCC1=NC(=NC=C1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C14H11F3N2O3
reactant | 4-methoxy-3-oxo-butyric acid methyl ester | COC(CC(COC)=O)=O | C6H10O4
product | 2-[4-({[4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-2-methyl-phenoxy]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)CNC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)COC)C)=O | C28H30F3N3O5
